US08217069B2
To a solution of 2-phenyl-2-propanol (0.45 g) in 1,2-dichloroethane (5 mL) were added zinc iodide (0.53 g) and a solution of 5-chloro-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-2-mercaptoanisole (1 g) in 1,2-dichloroethane (5 mL) successively, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1) to give 5-chloro-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-2-(1-methyl-1-phenylethylthio)anisole (1.32 g). This material was dissolved in tetrahydrofuran (20 mL). To the solution was added hydrazine monohydrate (0.73 mL), and the mixture was heated at reflux for 2 hours. The reaction mixture was cooled to room temperature, and the insoluble material was removed by filtration. To the filtrate were added water and ethyl acetate, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1) to give the title compound (0.74 g).

reactant | 2-phenyl-2-propanol | 0.45 g | C1(=CC=CC=C1)C(C)(C)O | C9H12O
reactant | 5-chloro-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-2-mercaptoanisole | 1 g | ClC=1C(=CC(=C(C1)OC)S)N1C(C2=CC=CC=C2C1=O)=O | C15H10ClNO3S
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
catalyst | zinc iodide | 0.53 g | [I-].[Zn+2].[I-]
product | 5-chloro-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-2-(1-methyl-1-phenylethylthio)anisole | 1.32 g | ClC=1C(=CC(=C(C1)OC)SC(C)(C1=CC=CC=C1)C)N1C(C2=CC=CC=C2C1=O)=O | C24H20ClNO3S
